US06281356B1
3-(6-Chloro-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)pyrrole-2,5-dione (70 mg, 37%) was prepared from methyl (6-chloro-1-methyl-1H-indol-3-yl)glyoxylate (98 mg, 0.39 mmol) and (1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-acetamide (100 mg, 0.39 mmol).

reactant | methyl (6-chloro-1-methyl-1H-indol-3-yl)glyoxylate | 0.39 mmol, 98 mg | ClC1=CC=C2C(=CN(C2=C1)C)C(C(=O)OC)=O | C12H10ClNO3
reactant | (1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)-acetamide | 0.39 mmol, 100 mg | CN1C=C(C2=CC=C(C=C12)N1CCCC1)CC(=O)N | C15H19N3O
product | 3-(6-Chloro-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-pyrrolidin-1-yl-1H-indol-3-yl)pyrrole-2,5-dione | 70 mg, 37% | ClC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N1CCCC1)C)=O)=O | C26H23ClN4O2
